*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : ME3215-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-400MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt ME3215-102_freq port1 port2 PARAMS: Cpar=0.525pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=35
+ R2=0.058
+ C= {Cpar}
+ K1=0.0001
+ K2=0.21
+ K3= {Ind}
+ K4=0.018
+ K5=0.0000095
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3013.35575
.ends ME3215-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : ME3215-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-400MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt ME3215-102_imp port1 port2 PARAMS: Cpar=0.45pF Ind=1uH
X1 port1 port2 Model1D PARAMS:
+ R1=35
+ R2=0.058
+ C= {Cpar}
+ K1=0.0001
+ K2=0.21
+ K3= {Ind}
+ K4=0.018
+ K5=0.0000095
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3013.35575
.ends ME3215-102_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : ME3215-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-400MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt ME3215-222_freq port1 port2 PARAMS: Cpar=0.485pF Ind=2.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=25
+ R2=0.107
+ C= {Cpar}
+ K1=0.00006
+ K2=0.48
+ K3= {Ind}
+ K4=0.04
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5934.60066
.ends ME3215-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : ME3215-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-400MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt ME3215-222_imp port1 port2 PARAMS: Cpar=0.42pF Ind=2.2uH
X1 port1 port2 Model1D PARAMS:
+ R1=25
+ R2=0.107
+ C= {Cpar}
+ K1=0.00006
+ K2=0.48
+ K3= {Ind}
+ K4=0.04
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5934.60066
.ends ME3215-222_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : ME3215-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-400MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt ME3215-332_freq port1 port2 PARAMS: Cpar=0.55pF Ind=3.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=10
+ R2=0.17
+ C= {Cpar}
+ K1=0.0001
+ K2=0.8
+ K3= {Ind}
+ K4=0.08
+ K5=0.0000099
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8930.49827
.ends ME3215-332_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : ME3215-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-400MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt ME3215-332_imp port1 port2 PARAMS: Cpar=0.46pF Ind=3.3uH
X1 port1 port2 Model1D PARAMS:
+ R1=10
+ R2=0.17
+ C= {Cpar}
+ K1=0.0001
+ K2=0.8
+ K3= {Ind}
+ K4=0.08
+ K5=0.0000099
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8930.49827
.ends ME3215-332_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : ME3215-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt ME3215-472_freq port1 port2 PARAMS: Cpar=0.694pF Ind=4.7uH
X1 port1 port2 Model1A PARAMS:
+ R1=20
+ R2=0.245
+ C= {Cpar}
+ K1=0.00008
+ K2=1.08
+ K3= {Ind}
+ K4=0.1
+ K5=0.0000099
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10156.5273
.ends ME3215-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : ME3215-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt ME3215-472_imp port1 port2 PARAMS: Cpar=0.59pF Ind=4.7uH
X1 port1 port2 Model1D PARAMS:
+ R1=20
+ R2=0.245
+ C= {Cpar}
+ K1=0.00008
+ K2=1.08
+ K3= {Ind}
+ K4=0.1
+ K5=0.0000099
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10156.5273
.ends ME3215-472_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : ME3215-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt ME3215-103_freq port1 port2 PARAMS: Cpar=0.877pF Ind=10uH
X1 port1 port2 Model1A PARAMS:
+ R1=10
+ R2=0.505
+ C= {Cpar}
+ K1=0.00006
+ K2=2.6
+ K3= {Ind}
+ K4=0.22
+ K5=0.00000995
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=19373.7717
.ends ME3215-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : ME3215-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt ME3215-103_imp port1 port2 PARAMS: Cpar=0.76pF Ind=10uH
X1 port1 port2 Model1D PARAMS:
+ R1=10
+ R2=0.505
+ C= {Cpar}
+ K1=0.00006
+ K2=2.6
+ K3= {Ind}
+ K4=0.22
+ K5=0.00000995
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=19373.7717
.ends ME3215-103_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : ME3215-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt ME3215-153_freq port1 port2 PARAMS: Cpar=0.92pF Ind=15uH
X1 port1 port2 Model1A PARAMS:
+ R1=20
+ R2=0.773
+ C= {Cpar}
+ K1=0.00006
+ K2=3.8
+ K3= {Ind}
+ K4=0.26
+ K5=0.00000995
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=24689.2803
.ends ME3215-153_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : ME3215-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt ME3215-153_imp port1 port2 PARAMS: Cpar=0.82pF Ind=15uH
X1 port1 port2 Model1D PARAMS:
+ R1=20
+ R2=0.773
+ C= {Cpar}
+ K1=0.00006
+ K2=3.8
+ K3= {Ind}
+ K4=0.26
+ K5=0.00000995
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=24689.2803
.ends ME3215-153_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : ME3215-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt ME3215-223_freq port1 port2 PARAMS: Cpar=0.772pF Ind=22uH
X1 port1 port2 Model1A PARAMS:
+ R1=20
+ R2=1
+ C= {Cpar}
+ K1=0.00005
+ K2=5
+ K3= {Ind}
+ K4=0.38
+ K5=0.00000995
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=31136.5262
.ends ME3215-223_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : ME3215-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt ME3215-223_imp port1 port2 PARAMS: Cpar=0.69pF Ind=22uH
X1 port1 port2 Model1D PARAMS:
+ R1=20
+ R2=1
+ C= {Cpar}
+ K1=0.00005
+ K2=5
+ K3= {Ind}
+ K4=0.38
+ K5=0.00000995
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=31136.5262
.ends ME3215-223_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : ME3215-333
* Inductance = 33uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-70MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt ME3215-333_freq port1 port2 PARAMS: Cpar=0.931pF Ind=33uH
X1 port1 port2 Model1A PARAMS:
+ R1=25
+ R2=1.48
+ C= {Cpar}
+ K1=0.00004
+ K2=7.5
+ K3= {Ind}
+ K4=0.42
+ K5=0.00000995
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=39701.3382
.ends ME3215-333_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : ME3215-333
* Inductance = 33uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-70MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt ME3215-333_imp port1 port2 PARAMS: Cpar=0.86pF Ind=33uH
X1 port1 port2 Model1D PARAMS:
+ R1=25
+ R2=1.48
+ C= {Cpar}
+ K1=0.00004
+ K2=7.5
+ K3= {Ind}
+ K4=0.42
+ K5=0.00000995
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=39701.3382
.ends ME3215-333_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : ME3215-473
* Inductance = 47uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt ME3215-473_freq port1 port2 PARAMS: Cpar=0.806pF Ind=47uH
X1 port1 port2 Model1A PARAMS:
+ R1=20
+ R2=2.33
+ C= {Cpar}
+ K1=0.00004
+ K2=10
+ K3= {Ind}
+ K4=0.5
+ K5=0.00000992
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=50669.2983
.ends ME3215-473_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : ME3215-473
* Inductance = 47uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt ME3215-473_imp port1 port2 PARAMS: Cpar=0.76pF Ind=47uH
X1 port1 port2 Model1D PARAMS:
+ R1=20
+ R2=2.33
+ C= {Cpar}
+ K1=0.00004
+ K2=10
+ K3= {Ind}
+ K4=0.5
+ K5=0.00000992
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=50669.2983
.ends ME3215-473_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : ME3215-683
* Inductance = 68uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt ME3215-683_freq port1 port2 PARAMS: Cpar=0.962pF Ind=68uH
X1 port1 port2 Model1A PARAMS:
+ R1=15
+ R2=3.4
+ C= {Cpar}
+ K1=0.00002
+ K2=14
+ K3= {Ind}
+ K4=0.6
+ K5=0.00000992
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=61979.1612
.ends ME3215-683_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : ME3215-683
* Inductance = 68uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt ME3215-683_imp port1 port2 PARAMS: Cpar=0.92pF Ind=68uH
X1 port1 port2 Model1D PARAMS:
+ R1=15
+ R2=3.4
+ C= {Cpar}
+ K1=0.00002
+ K2=14
+ K3= {Ind}
+ K4=0.6
+ K5=0.00000992
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=61979.1612
.ends ME3215-683_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : ME3215-104
* Inductance = 100uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt ME3215-104_freq port1 port2 PARAMS: Cpar=1.06pF Ind=100uH
X1 port1 port2 Model1A PARAMS:
+ R1=10
+ R2=4.67
+ C= {Cpar}
+ K1=0.00001
+ K2=19
+ K3= {Ind}
+ K4=0.7
+ K5=0.0000099
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=74758.4924
.ends ME3215-104_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : ME3215-104
* Inductance = 100uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt ME3215-104_imp port1 port2 PARAMS: Cpar=1.02pF Ind=100uH
X1 port1 port2 Model1D PARAMS:
+ R1=10
+ R2=4.67
+ C= {Cpar}
+ K1=0.00001
+ K2=19
+ K3= {Ind}
+ K4=0.7
+ K5=0.0000099
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=74758.4924
.ends ME3215-104_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
